US06403595B1
In ethanol (30 ml) was dissolved 4-(tert-butoxycarbonyl)-1-[1-(6-chloro-4-pyrimidinyl)-4-hydroxypiperidin-4-ylmethyl]piperazin-2-one (808 mg), and to the solution was added 10% palladium on carbon (containing 50% water, 242 mg). Under hydrogen atmosphere, the mixture was vigorously stirred overnight, and the catalyst was removed. The solvent was evaporated under reduced pressure, and the residue was purified with silica gel column chromatography (eluent:methanol/ethyl acetate=1/10) to give colorless amorphous of 4-(tert-butoxycarbonyl)-1-[4-hydroxy-1-(4-pyrimidinyl)piperidin-4-ylmethyl]piperazin-2-one (527 mg).

reactant | 4-(tert-butoxycarbonyl)-1-[1-(6-chloro-4-pyrimidinyl)-4-hydroxypiperidin-4-ylmethyl]piperazin-2-one | 808 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)CC1(CCN(CC1)C1=NC=NC(=C1)Cl)O)=O | C19H28ClN5O4
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 242 mg | [Pd] | Pd
product | 4-(tert-butoxycarbonyl)-1-[4-hydroxy-1-(4-pyrimidinyl)piperidin-4-ylmethyl]piperazin-2-one | 527 mg | C(C)(C)(C)OC(=O)N1CC(N(CC1)CC1(CCN(CC1)C1=NC=NC=C1)O)=O | C19H29N5O4
